US07419969B2
2-(Chloromethyl)-3-(hydroxyamino)-2-(2-hydroxyethoxy)-3-iminopropyl acetate.
A solution of 3-chloro-2-cyano-2-(2-hydroxyethoxy)propyl acetate (9.40 g, 42.4 mmol) in ethanol (150 mL) was treated with 50% aqueous hydroxylamine solution (2.94 g, 44.5 mmol, Aldrich) and the reaction was heated (65° C.) for 1.5 hrs. The solution was cooled to room temperature and the product was used as-is in the subsequent reaction: LC/MS m/z 255.20 (M+H).

reactant | 3-chloro-2-cyano-2-(2-hydroxyethoxy)propyl acetate | 42.4 mmol, 9.40 g | C(C)(=O)OCC(CCl)(OCCO)C#N | C8H12ClNO4
reactant | hydroxylamine | 44.5 mmol, 2.94 g | NO | H3NO
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-(Chloromethyl)-3-(hydroxyamino)-2-(2-hydroxyethoxy)-3-iminopropyl acetate | C(C)(=O)OCC(C(=N)NO)(OCCO)CCl | C8H15ClN2O5
